US04624961
4-Amino-5-chloro-2-methoxy-N-(1,2-dimethyl-4-pyrazolidinyl)benzamide
The title compound was prepared as described in Example 8 of U.S. Pat. No. 4,207,327 from 4-amino-5-chloro-2-methoxybenzoic acid, triethylamine, ethylchlorocarbonate and 4-amino-1,2-dimethylpyrazolidine, m.p. 169°-171° C.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | ethylchlorocarbonate | C(C)OC(=O)Cl | C3H5ClO2
reactant | 4-amino-1,2-dimethylpyrazolidine | NC1CN(N(C1)C)C | C5H13N3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Amino-5-chloro-2-methoxy-N-(1,2-dimethyl-4-pyrazolidinyl)benzamide | NC1=CC(=C(C(=O)NC2CN(N(C2)C)C)C=C1Cl)OC | C13H19ClN4O2
